US04478837
3-(2-Butylidenehydrazino)-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester
A suspension of 23.7 g of 3-hydrazino-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester in 100 cc of methylethyl ketone is heated at reflux for 4 hours while stirring. The title compound has a M.P. of 142°-146° (decomp., from methanol).

reactant | 3-hydrazino-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | 23.7 g | C(C)OC(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C10H15N5O2
solvent | methylethyl ketone | 100 cc | CC(=O)CC | C4H8O
product | 3-(2-Butylidenehydrazino)-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC(=C2)NN=CCCC)CC1 | C14H21N5O2
